US08648081B2
Stir a mixture of 3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester (26 g, 54.1 mmol) and LiOH—H2O (4.54 g, 0.108 mmol) in water (200 mL) and THF (400 mL) at 50° C. for 0.5 hour. After removal of organic solvent under vacuum, dilute the residue with ice water (100 mL). Acidify the aqueous mixture with conc. HCl to pH=1, and extract the resultant mixture with EtOAc (200 mL×3). Purify the residue by silica gel chromatograph (EtOAc:MeOH 6:1) to afford 3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid as a white solid (23 g, 91.7% for 2 steps). MS (m/z): 468 (M+1).

reactant | 3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid methyl ester | 54.1 mmol, 26 g | COC(=O)C=1SC(=C2C1CCC2)C2=NOC(C2)(C(F)(F)F)C2=CC(=C(C(=C2)Cl)F)Cl | C19H13Cl2F4NO3S
reactant | LiOH—H2O | 0.108 mmol, 4.54 g | O[Li].O
solvent | water | 200 mL | O | H2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)O)CCC2)C(F)(F)F | C18H11Cl2F4NO3S
